US04143061
3-(m-Trifluoromethyl-α,α-dimethylbenzyl)-1-methyl-1-phenylurea
A solution of 2.3 g of m-trifluoromethyl-α,α-dimethylbenzyl isocyanate in 5 ml of benzene was added to 1.1 g of N-methylaniline in 5 ml of benzene and the mixture was heated under reflux for 2 hours. After allowing the reaction mixture to cool, the mixture was washed successively with 2N aqueous sodium hydroxide, 2N hydrochloric acid and water and dried over anhydrous sodium sulfate. The solvent was then removed by distillation and the resulting crystals were recrystallized from n-hexane to obtain 2.6 g of the title compound.

reactant | m-trifluoromethyl-α,α-dimethylbenzyl isocyanate | 2.3 g | FC(C=1C=C(C(C)(C)N=C=O)C=CC1)(F)F | C11H10F3NO
reactant | N-methylaniline | 1.1 g | CNC1=CC=CC=C1 | C7H9N
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 3-(m-Trifluoromethyl-α,α-dimethylbenzyl)-1-methyl-1-phenylurea | 2.6 g | FC(C=1C=C(C(C)(C)NC(N(C2=CC=CC=C2)C)=O)C=CC1)(F)F | C18H19F3N2O
